2201-03-15 09:01:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure, Septic shock, Renal Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Remains on 3 pressors
   FIO2 still 1.0 with PEEP of 16
   Remains on bicarb gtt with pH of 7.12
   24 Hour Events:
 INVASIVE VENTILATION - START [**2201-3-14**] 10:57 PM
   History obtained from Medical records, icu team
   Patient unable to provide history: Sedated
   Allergies:
   Vancomycin
   Thrombocytopeni
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2201-3-15**] 01:00 AM
   Vancomycin - [**2201-3-15**] 01:00 AM
   Metronidazole - [**2201-3-15**] 01:00 AM
   Infusions:
   Fentanyl (Concentrate) - 25 mcg/hour
   Midazolam (Versed) - 1.5 mg/hour
   Insulin - Regular - 12 units/hour
   Norepinephrine - 0.5 mcg/Kg/min
   Other ICU medications:
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Ear, Nose, Throat: OG / NG tube
   Respiratory: mechanical ventilation
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2201-3-15**] 08:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**02**] AM
   Tmax: 38
C (100.4
   Tcurrent: 38
C (100.4
   HR: 114 (94 - 121) bpm
   BP: 116/78(92) {89/67(22) - 149/93(101)} mmHg
   RR: 24 (19 - 26) insp/min
   SpO2: 88%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 78 kg (admission): 80 kg
   CVP: 20 (15 - 20)mmHg
   Total In:
                                                                  5,049 mL
                                                                  2,607 mL
   PO:
   TF:
   IVF:
                                                                     49 mL
                                                                  2,607 mL
   Blood products:
   Total out:
                                                                    390 mL
                                                                    241 mL
   Urine:
                                                                     40 mL
                                                                    241 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,659 mL
                                                                  2,366 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 16 cmH2O
   FiO2: 100%
   RSBI Deferred: PEEP > 10, FiO2 > 60%, Hemodynamic Instability
   PIP: 30 cmH2O
   Plateau: 26 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 88%
   ABG: 7.12/62/67/12/-10
   Ve: 11.3 L/min
   PaO2 / FiO2: 67
   Physical Examination
   General Appearance: intubated, sedated
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: scattered)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace, cold hands/feet, dusky lesions on feet
   Skin:  Cool
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   12.1 g/dL
   227 K/uL
   410 mg/dL
   2.9 mg/dL
   12 mEq/L
   4.8 mEq/L
   115 mg/dL
   103 mEq/L
   130 mEq/L
   38.0 %
   1.7 K/uL
        [image002.jpg]
                             [**2201-3-14**]  10:29 PM
                             [**2201-3-14**]  11:34 PM
                             [**2201-3-15**]  12:34 AM
                             [**2201-3-15**]  01:10 AM
                             [**2201-3-15**]  03:57 AM
                             [**2201-3-15**]  04:39 AM
                             [**2201-3-15**]  05:15 AM
                             [**2201-3-15**]  06:29 AM
                             [**2201-3-15**]  08:09 AM
   WBC
   1.7
   Hct
   38.0
   Plt
   227
   Cr
   2.9
   TCO2
   16
   15
   15
   14
   12
   18
   19
   21
   Glucose
   201
   410
   Other labs: PT / PTT / INR:13.1/34.3/1.1, ALT / AST:22/23, Alk Phos / T
   Bili:52/0.2, Differential-Neuts:39.0 %, Band:26.0 %, Lymph:8.0 %,
   Mono:6.0 %, Eos:0.0 %, Lactic Acid:4.0 mmol/L, Albumin:2.2 g/dL,
   LDH:397 IU/L, Ca++:6.7 mg/dL, Mg++:1.8 mg/dL, PO4:6.5 mg/dL
   Assessment and Plan
 .H/O ACIDOSIS, MIXED
 .H/O DIABETES MELLITUS (DM), TYPE II
 .H/O RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC
   KIDNEY DISEASE)
 .H/O SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
   61 y/o male with Wegener's granulomatosis with septic shock,
   respiratory failure.  Pt is extremely ill with poor prognosis at this
   point.  Unclear what contribution Wegener's has to his respiratory
   failure versus infection - though he is clinically/hemodynamically
   behaving as he is in profound septic shock
   # Respiratory failure/Pneumonia:  Oxygenation quite tenuous.  Treating
   as if he has a pneumonia but unclear if [**Name (NI) 12183**] is contributing as
   well.  Continue with FIO2 1.0 and PEEP of 16.  Compliance and
   resistance actually not severely abnormal at this time.  Do not feel he
   would tolerate bronch at the moment but will continue to evaluate.
   Will continue with current steroid dose of 125mg q8 hrs and hold off on
   increasing t0 1gm daily +/- Cytoxan
   # Hypotension/Shock: Cont current pressors - norepi, phenylephrine, and
   vasopressin.  Covering broadly with abx given prior infections:
   vanc/levo/zosyn/bactrim/flagyl.  WBC low.
   .
   # Possible Colitis: Cont Flagyly
   # Renal failure:  No evidence of active sediment.  Will need to
   initiate CVVH given profound acidosis and anuria
   # Wegener's Disease:  Steroids as above.  D/C Imuran.
   Will need to have ongoing discussion with family re: goals of care.
   Son present on rounds
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2201-3-14**] 11:00 PM
   18 Gauge - [**2201-3-14**] 11:01 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2201-03-16 07:12:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 NASAL SWAB - At [**2201-3-15**] 08:36 AM
   routine MRSA
 EKG - At [**2201-3-15**] 09:46 AM
 ULTRASOUND - At [**2201-3-15**] 10:36 AM
   LENI's
 FEVER - 103.7
F - [**2201-3-15**] 11:00 PM
   - DVT in RLE found by US. Started on heparin gtt.
   - Renal recs: No immediate plans for CVVH. If he develops fluid
   overload such that he can no longer receive bicarb to control acidosis,
   contact renal team again.
   - ID: D/c levoflox and bactrim. Cont vanc, zosyn, flagyl. Consult if
   micro positive.
   - Rheum recs: send ANCA, hold azathioprine (restart as soon as
   infection clears), continue stress dose steroids and broad spectrum
   antibiotics, and consider looking for pulmonary embolism.
   Allergies:
   Vancomycin
   Thrombocytopeni
   Last dose of Antibiotics:
   Vancomycin - [**2201-3-15**] 11:08 PM
   Metronidazole - [**2201-3-16**] 12:30 AM
   Piperacillin - [**2201-3-16**] 02:28 AM
   Bactrim (SMX/TMP) - [**2201-3-16**] 03:00 AM
   Infusions:
   Fentanyl (Concentrate) - 25 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Vasopressin - 2.4 units/hour
   Heparin Sodium - 1,100 units/hour
   Insulin - Regular - 1 units/hour
   Norepinephrine - 0.3 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2201-3-15**] 08:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2201-3-16**] 07:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**02**] AM
   Tmax: 39.8
C (103.7
   Tcurrent: 37.7
C (99.8
   HR: 115 (112 - 136) bpm
   BP: 104/69(81) {90/52(64) - 142/85(101)} mmHg
   RR: 24 (24 - 33) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 78 kg (admission): 80 kg
    CVP: 15 (12 - 323)mmHg
   Total In:
                                                                  7,919 mL
                                                                  1,308 mL
   PO:
   TF:
   IVF:
                                                                  7,919 mL
                                                                  1,308 mL
   Blood products:
   Total out:
                                                                    866 mL
                                                                    292 mL
   Urine:
                                                                    866 mL
                                                                    292 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  7,053 mL
                                                                  1,016 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 24
   RR (Spontaneous): 2
   PEEP: 16 cmH2O
   FiO2: 90%
   PIP: 28 cmH2O
   Plateau: 26 cmH2O
   Compliance: 45 cmH2O/mL
   SpO2: 94%
   ABG: 7.23/50/90.[**Numeric Identifier 128**]/21/-6
   Ve: 12 L/min
   PaO2 / FiO2: 100
   Physical Examination
   General: Labored/agonal breathing on ventilator; withdrew to
   manipulation of A-line by nursing
   Eyes / Conjunctiva: Pupils sluggish, difficult to assess response
   (conjunctival edema is pronounced)
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube in place
   Cardiovascular: S1, S2 regular rhythm,No clear murmurs
   Abdominal: Soft, Distended
   Extremities: : DP/PT pulses not palpable given edema; feet mottled and
   cool to touch on pressors
   Skin:  Mottled
   Neurologic: Unresponsive, not following commands; pupils not responsive
   to light, corneal reflexes minimal
   Labs / Radiology
   74 K/uL
   9.8 g/dL
   107 mg/dL
   3.2 mg/dL
   21 mEq/L
   5.4 mEq/L
   98 mg/dL
   94 mEq/L
   130 mEq/L
   28.0 %
   2.7 K/uL
        [image002.jpg]
                             [**2201-3-15**]  10:29 AM
                             [**2201-3-15**]  12:55 PM
                             [**2201-3-15**]  01:02 PM
                             [**2201-3-15**]  04:13 PM
                             [**2201-3-15**]  06:00 PM
                             [**2201-3-15**]  08:57 PM
                             [**2201-3-15**]  09:15 PM
                             [**2201-3-15**]  11:57 PM
                             [**2201-3-16**]  02:48 AM
                             [**2201-3-16**]  03:18 AM
   WBC
   2.7
   Hct
   28.0
   Plt
   74
   Cr
   2.8
   3.0
   3.2
   TCO2
   21
   23
   24
   23
   19
   21
   22
   Glucose
   372
   104
   107
   Other labs: PT / PTT / INR:22.7/150.0/2.1, CK / CKMB /
   Troponin-T:42//0.14, ALT / AST:22/23, Alk Phos / T Bili:52/0.2,
   Differential-Neuts:39.0 %, Band:26.0 %, Lymph:8.0 %, Mono:6.0 %,
   Eos:0.0 %, Lactic Acid:4.4 mmol/L, Albumin:2.2 g/dL, LDH:397 IU/L,
   Ca++:8.0 mg/dL, Mg++:2.1 mg/dL, PO4:5.8 mg/dL
   Assessment and Plan
   61 y/o male with Wegener's granulomatosis, respiratory failure, likely
   PNA.
   .
   # Respiratory failure:  The patient developed tachypnea and low oxygen
   saturation while in the emergency room. He required intubation
   following paralysis.  Despite this treatment he continues to be hypoxic
   with a respiatory acidosis on ABG.  He is currently requiring PEEP of
   12 with mean airway of 37.  This picture is likely an acute respiratory
   failure due to V/Q mismatch in the context of acute pneumonia in a
   substrate of a patient with emphysema and chronic lung damage from
   repeated infections and Wegener's granulomatosis.  Differential
   includes PE (CTA not performed) in context of autoimmune inflammation,
   and any of a number of lung infections as patient has long history of
   multiple infections.
   - Continue to adjust ventilatory settings to aim for O2 saturation
   88-92% given COPD history
   - Weaning FiO2 as tolerated (try to go to 70%)
   - Trend ABGs
   - Continue albuterol/ipratroprium
   - send sputum for cx
   - COPD flare treatment with Solumedrol 125 mg IV Q8H (consider decrease
   to 80 mg IV this AM)
   - Chest PT when tolerated
   - Stat CXR now to confirm ET tube position, Daily CXR
   - Antibiotics as below
   .
   # Hypotension/Shock: Likely secondary to infection.  Does not seem to
   cardiogenic in etiology. Normal HCT, no evidence of hemolysis or
   bleeding on labs today.  Also likely superimposed adrenal insufficiency
   (especially in context of acute illness). Was on triple pressors; now
   down to two.
   - Levophed/vasopressin with goal MAP > 60
 wean as tolerated beginning
   with vasopressin
   - recheck CVP to evaluate better intravascular volume
   - Continue fluid resuscitation with aim for consistent UOP
   - Continue high-dose Solumedrol as above
   .
   # Pneumonia: The patient has left lower lobe infection consistent with
   likely infection.  Given his multiple past infectious the patient
   should be double-covered for pseudomonal infection, stenotrophomonas,
   gram positive infections.
   - Continue empiric Vanco/Zosyn/Flagyl
   - check urine legionella
   - Monitor for thrombocytopenia on vanco (history of reaction)
   - On treatment dose bactrim IV given h/o stentotrophomonas
 consider
   D/C
ing this medication today
   - ID consult if micro positive
   # DVT in RLE: Raises the possibility of PE as trigger for acute-onset
   SOB.
   - On heparin gtt with goal PTT 60-80
   - TTE today to evaluate for RV dysfunction
   - Monitor patient for signs of bleeding (oozing from skin tear on R arm
   where EKG lead was removed)
   - no plans for CTA, given borderline renal function, already on heparin
   gtt
   .
   # Mental status: Abnormal neurological exam with unresponsive pupils,
   abnormal respiratory pattern.  DDX cerebral edema in setting of
   metabolic abnormalities, possible intracranial bleed given low
   platelets and heparin gtt.
   - CT head this AM
   - change sedation to propofol from versed, fentanyl
   .
   # Anemia: hematocrit drop from 38 to 28.  DDX dilution in setting of
   aggressive fluid hydration, active bleed
   - Active type and screen
   -  Q8 hr HCT
   - transfuse HCT <25
   - check hemolysis labs
   - check stool for occult blood
   .
   #Thrombocytopenia:  Unclear etiology.  Somewhat early for HIT given
   started on heparin <24 hours ago.  Has history of thrombocytopenia on
   vancomycin.
   - trend TID
   - transfuse <50
   .
   # Possible Colitis: Unclear etiology.  Will treat empirically with
   flagyl at this time.
   - Send C. diff
   - Consider repeat imaging once patient more stable.
   .
   # Abnormal differential: Could be in context of sepsis, but marked
   abnormalitity raises possibility of underlying lymphoproliferative
   disease, especially given autoimmune diseases and use of azathioprine.
   Normal HCT and platelets decreases the possibility of malignancy.
   - Manual smear
   .
   # Renal failure:  Acute on chronic, with ranges in OMR from 1.8 to 4.
   He is currently at the higher end of this.  Likely secondary to
   pre-renal state in context of hypotension.  Lack of red cells in UA,
   minimal whites suggests that this is not active nephritis from
   Wegener's. Creatinine remains elevated > 3 today. K and phos trending
   up again.
   - F/U renal recs
   - Trend creatinine, electrolytes
   - [**Month (only) 60**] require CVVH if unable to control acidosis, volume overload,
   rising K
   .
   # Wegener's Disease:  Currently on azathioprine.  Have given IV
   solumedrol for COPD which should help--does have active lesions on
   imaging today.
   - F/U rheum recs, if any new
   .
   # L2 fracture, avascular necrosis of hip: Both in context of steroid
   use, later may be also in context of hypoxia given global ischemia.
   Patient will have evaluation by orthopedics and spine once more stable.
   .
   # Androgen deficiency: Continue androgel.
   .
   # FEN: No IVF given resuscitation to date and volume with other
   transfusions, replete electrolytes, regular diet
   # Prophylaxis: Subcutaneous heparin
   # Access: Central line
   # Communication: Niece [**Name (NI) 5315**] [**Telephone/Fax (1) 5317**]
   # Code:  DNR
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2201-3-14**] 11:00 PM
   18 Gauge - [**2201-3-14**] 11:01 PM
   Arterial Line - [**2201-3-15**] 07:00 AM
   Multi Lumen - [**2201-3-15**] 07:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2201-03-16 09:05:00 Physician Attending Progress Note
Chief Complaint: Septic shock, Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Came off of phenylephrine yesterday
   FIO2 down to 0.9 this AM
   RLE DVT found on ultrasound --> heparin gtt started
   24 Hour Events:
 NASAL SWAB - At [**2201-3-15**] 08:36 AM
   routine MRSA
 EKG - At [**2201-3-15**] 09:46 AM
 ULTRASOUND - At [**2201-3-15**] 10:36 AM
   LENI's
 FEVER - 103.7
F - [**2201-3-15**] 11:00 PM
   History obtained from Medical records, icu team
   Patient unable to provide history: Sedated
   Allergies:
   Vancomycin
   Thrombocytopeni
   Last dose of Antibiotics:
   Vancomycin - [**2201-3-15**] 11:08 PM
   Metronidazole - [**2201-3-16**] 12:30 AM
   Piperacillin - [**2201-3-16**] 02:28 AM
   Bactrim (SMX/TMP) - [**2201-3-16**] 03:00 AM
   Infusions:
   Fentanyl (Concentrate) - 25 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Vasopressin - 2.4 units/hour
   Heparin Sodium - 1,100 units/hour
   Insulin - Regular - 1 units/hour
   Norepinephrine - 0.3 mcg/Kg/min
   Other ICU medications:
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Respiratory: mechanical ventilation
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2201-3-16**] 09:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**02**] AM
   Tmax: 39.8
C (103.7
   Tcurrent: 36.9
C (98.5
   HR: 114 (114 - 136) bpm
   BP: 119/75(90) {90/52(64) - 142/79(95)} mmHg
   RR: 25 (24 - 33) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 78 kg (admission): 80 kg
   CVP: 14 (12 - 323)mmHg
   Total In:
                                                                  7,919 mL
                                                                  1,383 mL
   PO:
   TF:
   IVF:
                                                                  7,919 mL
                                                                  1,383 mL
   Blood products:
   Total out:
                                                                    866 mL
                                                                    367 mL
   Urine:
                                                                    866 mL
                                                                    367 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  7,053 mL
                                                                  1,016 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 24
   RR (Spontaneous): 1
   PEEP: 16 cmH2O
   FiO2: 90%
   PIP: 27 cmH2O
   Plateau: 26 cmH2O
   Compliance: 45 cmH2O/mL
   SpO2: 94%
   ABG: 7.23/50/90.[**Numeric Identifier 128**]/21/-6
   Ve: 12.2 L/min
   PaO2 / FiO2: 100
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: scattered)
   Abdominal: Non-tender, Distended
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Cool, mottled extremities
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.8 g/dL
   74 K/uL
   107 mg/dL
   3.2 mg/dL
   21 mEq/L
   5.4 mEq/L
   98 mg/dL
   94 mEq/L
   130 mEq/L
   28.0 %
   2.7 K/uL
        [image002.jpg]
                             [**2201-3-15**]  10:29 AM
                             [**2201-3-15**]  12:55 PM
                             [**2201-3-15**]  01:02 PM
                             [**2201-3-15**]  04:13 PM
                             [**2201-3-15**]  06:00 PM
                             [**2201-3-15**]  08:57 PM
                             [**2201-3-15**]  09:15 PM
                             [**2201-3-15**]  11:57 PM
                             [**2201-3-16**]  02:48 AM
                             [**2201-3-16**]  03:18 AM
   WBC
   2.7
   Hct
   28.0
   Plt
   74
   Cr
   2.8
   3.0
   3.2
   TCO2
   21
   23
   24
   23
   19
   21
   22
   Glucose
   372
   104
   107
   Other labs: PT / PTT / INR:22.7/150.0/2.1, CK / CKMB /
   Troponin-T:42//0.14, ALT / AST:22/23, Alk Phos / T Bili:52/0.2,
   Differential-Neuts:39.0 %, Band:26.0 %, Lymph:8.0 %, Mono:6.0 %,
   Eos:0.0 %, Lactic Acid:4.4 mmol/L, Albumin:2.2 g/dL, LDH:397 IU/L,
   Ca++:8.0 mg/dL, Mg++:2.1 mg/dL, PO4:5.8 mg/dL
   Assessment and Plan
 .H/O PNEUMONIA, OTHER
 .H/O DEEP VENOUS THROMBOSIS (DVT), LOWER EXTREMITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 SHOCK, SEPTIC
 .H/O ACIDOSIS, MIXED
 .H/O DIABETES MELLITUS (DM), TYPE II
 .H/O RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC
   KIDNEY DISEASE)
 .H/O SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
   61 y/o male with Wegener's granulomatosis with septic shock,
   respiratory failure.  Shock and resp failure likely due to large LLL
   pneumonia
   # Respiratory failure/Pneumonia:  FIO2 able to be brought down slightly
   to 0.9.  Cont with PEEP of 16 --> if oxygenation not improving further,
   will place esophageal balloon.
   # Hypotension/Shock: On levophed and vasopressin, titrate down as
   tolerated.  Covering broadly with abx given prior infections:
   vanc/levo/zosyn/bactrim/flagyl.  Try to get respiratory sample.  Also
   check urine legionella.
   # Neurologic status: Pupils dilated and not reactive - could be [**12-30**]
   atrovent but will need to do head CT given supratherapeutic PTT.
   Switch versed/fent to propofol.
   # Possible Colitis: Cont Flagyl
   # Renal failure:  Cr up to 3.2.  Remains acidemic with anion gap though
   lactate trending down again.  Making urine.  Renal team following.
   # Wegener's Disease:  Cont methylprednisone
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2201-3-14**] 11:00 PM
   18 Gauge - [**2201-3-14**] 11:01 PM
   Arterial Line - [**2201-3-15**] 07:00 AM
   Multi Lumen - [**2201-3-15**] 07:00 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill
   ------ Protected Section ------
   DVT: holding heparin gtt given supratherapeutic PTT
   ------ Protected Section Addendum Entered By:[**Name (NI) 6010**] [**Name8 (MD) 6011**], MD
   on:[**2201-3-16**] 09:09 ------

2201-03-17 07:33:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2201-3-16**] 10:00 AM
 BLOOD CULTURED - At [**2201-3-16**] 10:20 AM
 URINE CULTURE - At [**2201-3-16**] 04:00 PM
 EKG - At [**2201-3-16**] 08:25 PM
   - Head CT: negative for acute process
   - Worsening electrolyte abnormalities (K+ 6.5) and acidemia (lactate of
   6.5, pH 7.18). Renal consulted to possible CVVH. Felt not to be good
   candidate at this time (given PTT), manage medically overnight and
   re-address tomorrow. For elevated lactate, started on bicarb 1L and
   increased RR with repeat gas pH >7.2. For Hyperkalemia (6.5): No EKG
   changes, given glucose, insulin, bicarb, lasix, kayexcelate PR (written
   for but not given) repeat K mid-5s
   - HCT trending down from 28 to 22.9. Question bleeding from mouth as
   had bitten tongue. NG suction no gross blood but guaiac positive. No
   clear source of bleeding. Got 2u PRBC, 2u FFP, 1 unit platelets.
   - Started on heparin Gtt (no bolus) given LE DVT but PTT persistent
   >150 despite heparin being held for hours. Given IV vitamin K 5mg, 2
   units FFP, discussed protamine with heme-onc and pharmacy but decided
   against reversing. Labs not c/w DIC. Checking mixing study for
   inhibitor.
   - A fib with RVR. Stopped levophed and started neosynephrine, weaned
   off vasopressing with improvement in heart rate.
   - bedside echo with mildly dilated RV, mildly depressed EF, underfilled
   IVC
   - participating in sepsis research study where may get high dose
   thiamine
   Allergies:
   Vancomycin
   Thrombocytopeni
   Last dose of Antibiotics:
   Piperacillin - [**2201-3-16**] 02:28 AM
   Bactrim (SMX/TMP) - [**2201-3-16**] 03:00 AM
   Vancomycin - [**2201-3-16**] 02:00 PM
   Metronidazole - [**2201-3-17**] 12:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2201-3-17**] 01:20 AM
   Infusions:
   Phenylephrine - 4 mcg/Kg/min
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2201-3-16**] 05:00 PM
   Dextrose 50% - [**2201-3-16**] 09:00 PM
   Pantoprazole (Protonix) - [**2201-3-17**] 12:40 AM
   Other medications:
   Changes to medical and family history:
   Unchanged
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Unable to obtain
   Flowsheet Data as of  [**2201-3-17**] 07:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**02**] AM
   Tmax: 37.8
C (100.1
   Tcurrent: 36.4
C (97.6
   HR: 114 (102 - 120) bpm
   BP: 111/67(82) {101/58(74) - 133/74(92)} mmHg
   RR: 17 (16 - 27) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 78 kg (admission): 80 kg
   Height: 69 Inch
    CVP: 16 (14 - 17)mmHg
   Mixed Venous O2% Sat: 75 - 78
   Total In:
                                                                  5,334 mL
                                                                  2,413 mL
   PO:
   TF:
   IVF:
                                                                  4,583 mL
                                                                  1,712 mL
   Blood products:
                                                                    616 mL
                                                                    671 mL
   Total out:
                                                                    712 mL
                                                                    152 mL
   Urine:
                                                                    707 mL
                                                                    152 mL
   NG:
                                                                      5 mL
   Stool:
   Drains:
   Balance:
                                                                  4,622 mL
                                                                  2,261 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 27
   RR (Spontaneous): 2
   PEEP: 16 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 31 cmH2O
   Plateau: 27 cmH2O
   SpO2: 99%
   ABG: 7.34/37/122/19/-5
   Ve: 13.3 L/min
   PaO2 / FiO2: 244
   Physical Examination
   General: Labored/agonal breathing on ventilator
   Eyes / Conjunctiva: Pupils sluggish, difficult to assess response
   (conjunctival edema is pronounced)
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube in place
   Cardiovascular: S1, S2 regular rhythm,No clear murmurs
   Abdominal: Soft, Distended
   Extremities: : DP/PT pulses not palpable given edema; feet mottled and
   cool to touch on pressors
   Skin:  Mottled
   Neurologic: Unresponsive, not following commands; pupils not responsive
   to light, corneal reflexes minimal
   Labs / Radiology
   84 K/uL
   10.2 g/dL
   115 mg/dL
   3.7 mg/dL
   19 mEq/L
   5.4 mEq/L
   96 mg/dL
   91 mEq/L
   131 mEq/L
   27.1 %
   5.6 K/uL
        [image002.jpg]
                             [**2201-3-16**]  03:17 PM
                             [**2201-3-16**]  06:28 PM
                             [**2201-3-16**]  07:44 PM
                             [**2201-3-16**]  08:08 PM
                             [**2201-3-16**]  09:56 PM
                             [**2201-3-16**]  10:13 PM
                             [**2201-3-17**]  12:17 AM
                             [**2201-3-17**]  02:01 AM
                             [**2201-3-17**]  04:04 AM
                             [**2201-3-17**]  04:39 AM
   WBC
   4.9
   5.6
   Hct
   22.9
   24
   21.9
   20
   29
   28.5
   27.1
   Plt
   42
   84
   Cr
   3.8
   3.7
   TCO2
   20
   21
   23
   21
   23
   21
   Glucose
   193
   115
   Other labs: PT / PTT / INR:15.8/65.4/1.4, CK / CKMB /
   Troponin-T:42//0.14, ALT / AST:550/488, Alk Phos / T Bili:112/1.4,
   Differential-Neuts:78.0 %, Band:11.0 %, Lymph:1.0 %, Mono:7.0 %,
   Eos:0.0 %, D-dimer:1482 ng/mL, Fibrinogen:618 mg/dL, Lactic Acid:5.5
   mmol/L, Albumin:1.7 g/dL, LDH:1152 IU/L, Ca++:8.0 mg/dL, Mg++:2.0
   mg/dL, PO4:7.3 mg/dL
   TTE ([**2201-3-16**]): PRELIMINARY REPORT:
   The left atrium and right atrium are normal in cavity size. The patient
   is mechanically ventilated. The IVC is small, consistent with an RA
   pressure of <10mmHg. Left ventricular wall thicknesses and cavity size
   are normal. There is mild global left ventricular hypokinesis (LVEF =
   40-45 %). The right ventricular cavity is mildly dilated with vigorous
   basal contraction. There is abnormal septal motion/position. The aortic
   valve leaflets are mildly thickened (?#). Mild (1+) aortic
   regurgitation is seen. The mitral valve leaflets are mildly thickened.
   Trivial mitral regurgitation is seen. There is an anterior space which
   most likely represents a prominent fat pad.
   PRELIMINARY REPORT developed by a Cardiology Fellow. Not
   reviewed/approved by the Attending Echo Physician. [**Last Name (NamePattern4) **]. [**First Name (STitle) 6079**] was
   notified by telephone on [**2201-3-16**] at 11:15am.
   Compared with the prior study (images reviewed) of [**2199-8-12**], the
   patient is no longer in atrial flutter and the LV function is worse
   although the image quality is poor on the current study.
   Assessment and Plan
   61 y/o male with Wegener's granulomatosis, respiratory failure, likely
   PNA.
   .
   # Respiratory failure:  The patient developed tachypnea and low oxygen
   saturation while in the emergency room. He required intubation
   following paralysis.  Despite this treatment he continues to be hypoxic
   with a respiatory acidosis on ABG.  This picture is likely an acute
   respiratory failure due to V/Q mismatch in the context of acute
   pneumonia in a substrate of a patient with emphysema and chronic lung
   damage from repeated infections and Wegener's granulomatosis.
   Differential includes PE (CTA not performed) in context of autoimmune
   inflammation, and any of a number of lung infections as patient has
   long history of multiple infections.
   - Continue to adjust ventilatory settings to aim for O2 saturation
   88-92% given COPD history
   - Weaning FiO2 as tolerated (currently fi02 50%)
   - Trend ABGs
   - Continue albuterol/ipratroprium
   - send sputum for cx
   - COPD/Wegener
s flare treatment with Solumedrol 125 mg IV Q8H
   (consider decrease to 80 mg IV this AM)
   - Chest PT when tolerated
   - Daily CXR
   - Antibiotics as below
   .
   # Hypotension/Shock: Likely secondary to infection.  Does not seem to
   cardiogenic in etiology.  HCT appears to be stable post transfusion.
   Also likely superimposed adrenal insufficiency (especially in context
   of acute illness). Was on triple pressors; now down to two.
   - neosynephrine/vasopressin with goal MAP > 60
 wean as tolerated
   beginning with vasopressin
   - recheck CVP to evaluate better intravascular volume
   - avoid fluid resuscitation as patient is markedly overloaded (though
   likely intravascularly deplete) with aim for consistent UOP
   - Continue high-dose Solumedrol as above
   .
   # Pneumonia: The patient has left lower lobe infection consistent with
   likely infection.  Given his multiple past infectious the patient
   should be double-covered for pseudomonal infection, stenotrophomonas,
   gram positive infections.
   - Continue empiric Vanco/Zosyn/Flagyl
   - check urine legionella
 negative
   - Monitor for thrombocytopenia on vanco (history of reaction)
   - Off treatment dose bactrim IV given h/o stentotrophomonas
   - F/U ID recs
   .
   # Anemia/dropping hematocrit
 Patient had unexpected hematocrit drop
   from 28
 23.  Patient with bleeding from mouth (biting ET tube),
   coffee ground material from OG.  No other evidence of bleeding.  . Got
   2u PRBC, 2u FFP, 1 unit platelets and bumped appropriately.
   - consider CT torso looking for RP bleed/other evidence of bleeding if
   evidence of rebleeding.
   - monitor HCT Q 8 hours
   - Active T&S
   - Transfuse for HCT < 24
   .
   # Coagulopathy: Started on heparin for LE DVT (no bolus) but
   supratherapeutic after starting.  Trending down this morning.
   - check inhibitor
   - consider heme onc consult if abnormal or if persistent coagulopathy
   # DVT in RLE: Raises the possibility of PE as trigger for acute-onset
   SOB.
   - Off heparin gtt with goal PTT 60-80; pt supratherapeutic ptt
   - F/U final TTE read
   - Monitor patient for signs of bleeding (oozing from skin tear on R arm
   where EKG lead was removed)
   - no plans for CTA, given borderline renal function, already on heparin
   gtt
   .
   # Mental status: Abnormal neurological exam with unresponsive pupils,
   abnormal respiratory pattern.  DDX cerebral edema in setting of
   metabolic abnormalities, possible intracranial bleed given low
   platelets and heparin gtt.
   - CT head without any acute findings
   - continue sedation with propofol
   ..
   #Thrombocytopenia:  Unclear etiology.  Somewhat early for HIT given
   started on heparin <24 hours ago.  Has history of thrombocytopenia on
   vancomycin.
   - trend TID
   - transfuse <50
   .
   # Possible Colitis: Unclear etiology.  Will treat empirically with
   flagyl at this time.
   - Send C. diff
   - Consider repeat imaging once patient more stable.
   .
   #Atrial fibrillation:  Overnight episodes of AFIB with RVR,  this
   morning rate controlled.
   .
   # Abnormal differential: Could be in context of sepsis, but marked
   abnormalitity raises possibility of underlying lymphoproliferative
   disease, especially given autoimmune diseases and use of azathioprine.
   Normal HCT and platelets decreases the possibility of malignancy.
   - Manual smear
   .
   # Renal failure:  Acute on chronic, with ranges in OMR from 1.8 to 4.
   He is currently at the higher end of this.  Likely secondary to
   pre-renal state in context of hypotension.  Lack of red cells in UA,
   minimal whites suggests that this is not active nephritis from
   Wegener's. Creatinine remains elevated > 3 today. K and phos trending
   up again with dwindling UOP.
   - F/U renal recs
   - Trend creatinine, electrolytes
   - [**Month (only) 60**] require CVVH if unable to control acidosis, volume overload,
   rising K
   .
   # Wegener's Disease:  On azathioprine at home; being held currently due
   to low WBC.  Have given IV solumedrol for COPD which should help--does
   have active lesions on imaging today.
   - F/U rheum recs, if any new
   .
   # L2 fracture, avascular necrosis of hip: Both in context of steroid
   use, later may be also in context of hypoxia given global ischemia.
   Patient will have evaluation by orthopedics and spine once more stable.
   .
   # Androgen deficiency: Continue androgel.
   .
   # FEN: No IVF given resuscitation to date and volume with other
   transfusions, replete electrolytes, regular diet
   # Prophylaxis: Subcutaneous heparin
   # Access: Central line, a-line
   # Communication: Niece [**Name (NI) 5315**] [**Telephone/Fax (1) 5317**]/Son
   # Code:  DNR
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2201-3-14**] 11:00 PM
   18 Gauge - [**2201-3-14**] 11:01 PM
   Arterial Line - [**2201-3-15**] 07:00 AM
   Multi Lumen - [**2201-3-15**] 07:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2201-03-18 07:34:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Renal: no strong indication for CVVH today. Monitor K+, give
   kayexalate, insulin, IV Lasix (80-120mg) if needed for hyperkalemia.
   - Rheum recs: decrease steroids (methylprednisolone 125 IV Q8h to 60 IV
   q8h) on [**3-17**], then decrease by 10 qod
   - Labs q8h 12pm Na 130/K 5.5, 8pm - Hct 25.1, Lactate 4.2, coags
   PENDING
   - TTE with bubble study: No atrial septal defect or patent foramen
   ovale is seen by 2D, color Doppler or saline contrast with maneuvers.
   Due to suboptimal technical quality, a focal wall motion abnormality
   cannot be fully excluded. Overall left ventricular systolic function is
   mildly depressed (LVEF=40%). The right ventricular cavity is mildly
   dilated with borderline normal free wall function. There is abnormal
   septal motion/position. The MV leaflets are mildly thickened. There is
   mild PA systolic hypertension. IMPRESSION: Suboptimal image quality. No
   apparent intracardiac shunt but image quality poor. Mildly depressed
   left ventricular function. Mild right ventricular dilation and
   borderline function. No change from [**3-16**].
   - Mixing study PENDING
   - ANCA - NEGATIVE
   - continues on neo gtt for pressure support
   - Received 1 unit platelets, 1 unit FFP
   Allergies:
   Vancomycin
   Thrombocytopeni
   Last dose of Antibiotics:
   Piperacillin - [**2201-3-16**] 02:28 AM
   Bactrim (SMX/TMP) - [**2201-3-16**] 03:00 AM
   Vancomycin - [**2201-3-16**] 02:00 PM
   Metronidazole - [**2201-3-17**] 11:54 PM
   Piperacillin/Tazobactam (Zosyn) - [**2201-3-17**] 11:54 PM
   Infusions:
   Phenylephrine - 3 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2201-3-17**] 11:54 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2201-3-18**] 07:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**02**] AM
   Tmax: 36.8
C (98.2
   Tcurrent: 35.7
C (96.3
   HR: 116 (100 - 120) bpm
   BP: 108/67(80) {89/48(61) - 119/74(84)} mmHg
   RR: 20 (14 - 29) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 78 kg (admission): 80 kg
   Height: 69 Inch
    CVP: 16 (12 - 19)mmHg
   CO/CI (Fick): (99.2 L/min) / (50.7 L/min/m2)
   Mixed Venous O2% Sat: 76 - 97
   Total In:
                                                                  4,160 mL
                                                                    502 mL
   PO:
   TF:
   IVF:
                                                                  3,384 mL
                                                                    502 mL
   Blood products:
                                                                    671 mL
   Total out:
                                                                    492 mL
                                                                    150 mL
   Urine:
                                                                    492 mL
                                                                    150 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,668 mL
                                                                    352 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 27
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 50%
   PIP: 26 cmH2O
   Plateau: 25 cmH2O
   Compliance: 54.2 cmH2O/mL
   SpO2: 98%
   ABG: 7.37/37/95/18/-3
   Ve: 13.7 L/min
   PaO2 / FiO2: 190
   Physical Examination
   General: Labored/agonal breathing on ventilator
   Eyes / Conjunctiva: Pupils sluggish, difficult to assess response
   (conjunctival edema is pronounced)
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube in place
   Cardiovascular: S1, S2 regular rhythm,No clear murmurs
   Abdominal: Soft, Distended
   Extremities: : DP/PT pulses not palpable given edema; feet mottled and
   cool to touch on pressors
   Skin:  Mottled
   Neurologic: Unresponsive, not following commands; pupils not responsive
   to light, corneal reflexes minimal
   Labs / Radiology
   75 K/uL
   9.1 g/dL
   73 mg/dL
   3.9 mg/dL
   18 mEq/L
   5.5 mEq/L
   97 mg/dL
   93 mEq/L
   126 mEq/L
   24.1 %
   4.4 K/uL
        [image002.jpg]
                             [**2201-3-17**]  02:01 AM
                             [**2201-3-17**]  04:04 AM
                             [**2201-3-17**]  04:39 AM
                             [**2201-3-17**]  10:59 AM
                             [**2201-3-17**]  12:00 PM
                             [**2201-3-17**]  07:05 PM
                             [**2201-3-17**]  07:45 PM
                             [**2201-3-18**]  02:16 AM
                             [**2201-3-18**]  02:32 AM
                             [**2201-3-18**]  05:10 AM
   WBC
   5.6
   5.4
   4.5
   4.4
   Hct
   28.5
   27.1
   26.5
   25.1
   24.1
   Plt
   84
   67
   44
   36
   75
   Cr
   3.7
   3.9
   TCO2
   21
   20
   21
   22
   Glucose
   115
   73
   Other labs:
   PT / PTT / INR:15.0/35.8/1.2,
   CK / CKMB / Troponin-T:42//0.14,
   ALT / AST:567/342, Alk Phos / T Bili:210/1.8,
   Differential-Neuts:80.0 %, Band:7.0 %, Lymph:1.0 %, Mono:9.0 %, Eos:0.0
   %,
   Fibrinogen:999 mg/dL,
   Lactic Acid:3.2 mmol/L, Albumin:1.7 g/dL, LDH:1189 IU/L,
   Ca++:7.9 mg/dL, Mg++:1.9 mg/dL, PO4:7.5 mg/dL
   Micro:
   - [**2201-3-14**] Blood culture
 NGTD
   - [**2201-3-15**] Blood culture
 NGTD
   - [**2201-3-15**] Blood culture
 NGTD
   - [**2201-3-16**] Blood culture
 NGTD
   - [**2201-3-16**] Sputum sparse growth of commensal flora
   Total transfusions this admission:
   - RBC 2 units
   - FFP 1 unit
   - Platelets 2 units
   IMAGES / STUDIES:
   TTE [**2201-3-17**]: No atrial septal defect or patent foramen ovale is seen by
   2D, color Doppler or saline contrast with maneuvers. Due to suboptimal
   technical quality, a focal wall motion abnormality cannot be fully
   excluded. Overall left ventricular systolic function is mildly
   depressed (LVEF= 40 %). The right ventricular cavity is mildly dilated
   with borderline normal free wall function. There is abnormal septal
   motion/position. The mitral valve leaflets are mildly thickened. There
   is mild pulmonary artery systolic hypertension. IMPRESSION: Suboptimal
   image quality. No apparent intracardiac shunt but image quality poor.
   Mildly depressed left ventricular function. Mild right ventricular
   dilation and borderline function. Compared with the prior study (images
   reviewed) of [**2201-3-16**], the findings are similar.
   CXR [**2201-3-17**]: Of note the left CP angle was not included on the film,
   The visualized left lower lobe with ill-defined opacities is unchanged.
   This is more likely due to hemorrhage. Otherwise there are no changes
   in the right lobe with pleural parenchyma scarring in the right apex.
   Lines and tubes remain in place.
   CXR [**2201-3-18**]: Report pending
   Assessment and Plan
   61 y/o male with Wegener's granulomatosis, respiratory failure, likely
   PNA.
   .
   # Respiratory failure:  The patient developed tachypnea and low oxygen
   saturation while in the emergency room. He required intubation
   following paralysis.  Despite this treatment he continues to be hypoxic
   with a respiatory acidosis on ABG.  This picture is likely an acute
   respiratory failure due to V/Q mismatch in the context of acute
   pneumonia in a substrate of a patient with emphysema and chronic lung
   damage from repeated infections and Wegener's granulomatosis.
   Differential includes PE (CTA not performed) in context of autoimmune
   inflammation, and any of a number of lung infections as patient has
   long history of multiple infections.
   - Continue to adjust ventilatory settings to aim for O2 saturation
   88-92% given COPD history
   - Weaning FiO2 as tolerated (currently fi02 50%)
   - Trend ABGs
   - Continue albuterol/ipratroprium
   - send sputum for cx
   - COPD/Wegener
s flare treatment with Solumedrol 125 mg IV Q8H
   (consider decrease to 80 mg IV this AM)
   - Chest PT when tolerated
   - Daily CXR
   - Antibiotics as below
   .
   # Hypotension/Shock: Likely secondary to infection.  Does not seem to
   cardiogenic in etiology.  HCT appears to be stable post transfusion.
   Also likely superimposed adrenal insufficiency (especially in context
   of acute illness). Was on triple pressors; now down to one.
   - neosynephrine/vasopressin with goal MAP > 60
 wean as tolerated
   beginning with vasopressin
   - Trend CVP to evaluate better intravascular volume (mid-teens; most
   recent 16)
   - avoid fluid resuscitation as patient is markedly overloaded (though
   likely intravascularly deplete) with aim for consistent UOP
   - Continue Solumedrol at 60 IV TID -> decrease by 10 every other day
   (per rheum recs)
   .
   # Pneumonia: The patient has left lower lobe infection consistent with
   likely infection.  Given his multiple past infectious the patient
   should be double-covered for pseudomonal infection, stenotrophomonas,
   gram positive infections.
   - Continue empiric Vanco/Zosyn/Flagyl
   - check urine legionella
 negative
   - Monitor for thrombocytopenia on vanco (history of reaction)
   - Off treatment dose bactrim IV given h/o stentotrophomonas
   - F/U ID recs
   .
   # Anemia/dropping hematocrit
 Patient had unexpected hematocrit drop
   from 28
 23.  Patient with bleeding from mouth (biting ET tube),
   coffee ground material from OG.  No other evidence of bleeding.  . Got
   2u PRBC, 2u FFP, 1 unit platelets and bumped appropriately.
   - consider CT torso looking for RP bleed/other evidence of bleeding if
   evidence of rebleeding.
   - monitor HCT Q 8 hours
   - Active T&S
   - Transfuse for HCT < 24
   .
   # Coagulopathy: Started on heparin for LE DVT (no bolus) but
   supratherapeutic after starting.  Trending down this morning.
   - check inhibitor
   - consider heme onc consult if abnormal or if persistent coagulopathy
   # DVT in RLE: Raises the possibility of PE as trigger for acute-onset
   SOB.
   - Off heparin gtt with goal PTT 60-80; pt supratherapeutic ptt
   - F/U final TTE read
   - Monitor patient for signs of bleeding (oozing from skin tear on R arm
   where EKG lead was removed)
   - no plans for CTA, given borderline renal function, already on heparin
   gtt
   .
   # Mental status: Abnormal neurological exam with unresponsive pupils,
   abnormal respiratory pattern.  DDX cerebral edema in setting of
   metabolic abnormalities, possible intracranial bleed given low
   platelets and heparin gtt.
   - CT head without any acute findings
   - continue sedation with propofol
   ..
   #Thrombocytopenia:  Unclear etiology.  Somewhat early for HIT given
   started on heparin <24 hours ago.  Has history of thrombocytopenia on
   vancomycin. Received 1 unit overnight with good response.
   - trend TID
   - transfuse <50
   .
   # Renal failure:  Acute on chronic, with ranges in OMR from 1.8 to 4.
   He is currently at the higher end of this.  Likely secondary to
   pre-renal state in context of hypotension.  Lack of red cells in UA,
   minimal whites suggests that this is not active nephritis from
   Wegener's. Creatinine remains elevated > 3 today. K and phos trending
   up again with dwindling UOP.
   - F/U renal recs
   - Trend creatinine, electrolytes
   - Will likely require CVVH today or tomorrow for volume overload,
   unstable electrolytes
   - Give kayexelate if K > 6
   - Check electrolytes in PM
   .
   # Possible Colitis: Unclear etiology.  Will treat empirically with
   flagyl at this time.
   - Send C. diff once stool sample available
   - Consider repeat imaging once patient more stable.
   .
   #Atrial fibrillation:  Overnight episodes of AFIB with RVR, this
   morning rate controlled.
   - Will start amiodarone as not currently a candidate for rate control
   .
   # Abnormal differential: Could be in context of sepsis, but marked
   abnormalitity raises possibility of underlying lymphoproliferative
   disease, especially given autoimmune diseases and use of azathioprine.
   Normal HCT and platelets decreases the possibility of malignancy.
   - Manual smear
   .
   # Wegener's Disease:  On azathioprine at home; being held currently due
   to low WBC.  Have given IV solumedrol for COPD which should help--does
   have active lesions on imaging today.
   - F/U rheum recs, if any new
   .
   # L2 fracture, avascular necrosis of hip: Both in context of steroid
   use, later may be also in context of hypoxia given global ischemia.
   Patient will have evaluation by orthopedics and spine once more stable.
   # Constipation: No BM since admission, possibly secondary to ileus.
   Patient has bowel sounds today.
   - Start lactulose PO
   .
   # Androgen deficiency: Continue androgel.
   .
   # FEN: No IVF given resuscitation to date and volume with other
   transfusions, replete electrolytes, contact nutrition to initiate TF
   # Prophylaxis: Pneumoboots
   # Access: Central line, a-line
   # Communication: Niece [**Name (NI) 5315**] [**Telephone/Fax (1) 5317**]/Son
   # Code:  DNR, intubation/pressors OK
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2201-3-14**] 11:00 PM
   18 Gauge - [**2201-3-14**] 11:01 PM
   Arterial Line - [**2201-3-15**] 07:00 AM
   Multi Lumen - [**2201-3-15**] 07:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2201-03-18 11:21:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   61 yo man with Wegener's granulomatosis, COPD, CRI, admitted with PNA,
   septic shock.
   24 Hour Events:
   Echo with bubble study negative for shunt.
   Allergies:
   Vancomycin
   Thrombocytopeni
   Last dose of Antibiotics:
   Piperacillin - [**2201-3-16**] 02:28 AM
   Bactrim (SMX/TMP) - [**2201-3-16**] 03:00 AM
   Vancomycin - [**2201-3-16**] 02:00 PM
   Metronidazole - [**2201-3-18**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2201-3-18**] 09:00 AM
   Infusions:
   Phenylephrine - 1.5 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2201-3-17**] 11:54 PM
   Other medications:
   zoloft
   testosterone
   florinef
   thiamine study
   protonix
   medrol 60 q8h
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2201-3-18**] 11:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**02**] AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.5
C (97.7
   HR: 127 (100 - 127) bpm
   BP: 99/63(73) {89/48(61) - 119/74(84)} mmHg
   RR: 19 (14 - 32) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 78 kg (admission): 80 kg
   Height: 69 Inch
   CVP: 16 (12 - 19)mmHg
   CO/CI (Fick): (99.2 L/min) / (50.7 L/min/m2)
   Mixed Venous O2% Sat: 76 - 97
                                Total In:
                                                                  4,160 mL
                                                                  1,270 mL
   PO:
                                TF:
   IVF:
                                                                  3,384 mL
                                                                    967 mL
   Blood products:
                                                                    671 mL
                                                                    183 mL
   Total out:
                                                                    492 mL
                                                                    340 mL
   Urine:
                                                                    492 mL
                                                                    340 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,668 mL
                                                                    930 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 27
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 50%
   PIP: 30 cmH2O
   Plateau: 25 cmH2O
   SpO2: 97%
   ABG: 7.37/37/95.[**Numeric Identifier 607**]/18/-3
   Ve: 13.6 L/min
   PaO2 / FiO2: 190
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: b/l)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right lower extremity edema: 3+, Left lower extremity
   edema: 3+
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.1 g/dL
   75 K/uL
   73 mg/dL
   3.9 mg/dL
   18 mEq/L
   5.5 mEq/L
   97 mg/dL
   93 mEq/L
   126 mEq/L
   24.1 %
   4.4 K/uL
        [image002.jpg]
                             [**2201-3-17**]  02:01 AM
                             [**2201-3-17**]  04:04 AM
                             [**2201-3-17**]  04:39 AM
                             [**2201-3-17**]  10:59 AM
                             [**2201-3-17**]  12:00 PM
                             [**2201-3-17**]  07:05 PM
                             [**2201-3-17**]  07:45 PM
                             [**2201-3-18**]  02:16 AM
                             [**2201-3-18**]  02:32 AM
                             [**2201-3-18**]  05:10 AM
   WBC
   5.6
   5.4
   4.5
   4.4
   Hct
   28.5
   27.1
   26.5
   25.1
   24.1
   Plt
   84
   67
   44
   36
   75
   Cr
   3.7
   3.9
   TCO2
   21
   20
   21
   22
   Glucose
   115
   73
   Other labs: PT / PTT / INR:15.0/35.8/1.2, CK / CKMB /
   Troponin-T:42//0.14, ALT / AST:567/342, Alk Phos / T Bili:210/1.8,
   Differential-Neuts:80.0 %, Band:7.0 %, Lymph:1.0 %, Mono:9.0 %, Eos:0.0
   %, D-dimer:1482 ng/mL, Fibrinogen:999 mg/dL, Lactic Acid:3.2 mmol/L,
   Albumin:1.7 g/dL, LDH:1189 IU/L, Ca++:7.9 mg/dL, Mg++:1.9 mg/dL,
   PO4:7.5 mg/dL
   Assessment and Plan
   Respiratory failure:  Improved overall.  Continue to wean Peep.
   Septic shock:  improved, continue to wean pressors as tolerated.
   PNA: continue vanco/zosyn/flagyl
   anemia/coagulopathy:  improved off heparin.  hct has been relatively
   stable.
   DVT: holding heparin or other therapy for now.  Will speak with IR
   about filter placement, as we are hesitant to give him heparin with
   bleeding.
   Acute renal failure:  Will need HD catheter and fluid off to extubate.
   Is 20 Liters positive LSO
   Increased LFTs:  may be due to shock, continue to follow.  RUQ U/S with
   doppler
   Afib with RVR: amiodarone IV load
   bowel regimen:  start lactulose
   ICU Care
   Nutrition:
   Comments: start TFs.
   Glycemic Control:
   Lines:
   16 Gauge - [**2201-3-14**] 11:00 PM
   18 Gauge - [**2201-3-14**] 11:01 PM
   Arterial Line - [**2201-3-15**] 07:00 AM
   Multi Lumen - [**2201-3-15**] 07:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 50 minutes
   Patient is critically ill

2201-03-19 07:14:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Reduced pressure requirement
 phenylephrine 1.8
 0.5
   - Renal rec trial of diuresis
 started lasix gttt with 120IV bolus but
   continues poor UOP, started 1 dose diuril with improvement in UOP to
   50-100cc/hr.  This morning renal discussed HD/CVVH w/ family. Plan for
   line this AM then CVVH after.
   - Started on amiodarone gtt for atrial fibrillation HR stable around
   100 O/N
   - RUQ U/S done; limited study, no appreciable abnormalities; patent
   vasculature. No splenomegaly, gallstones, ascites.
   - PEEP decreased from 15 to 12 to 10, but ABG showed PaO2 of 63 so
   increased PEEP back to 12
   - One very small BM guaiac positive, not enough to send for stool
   studies; written for lactulose TID PRN
   - TF held overnight given SMALL chance that pt will get HD line
   placement in AM.
   Allergies:
   Vancomycin
   Thrombocytopeni
   Last dose of Antibiotics:
   Vancomycin - [**2201-3-16**] 02:00 PM
   Metronidazole - [**2201-3-19**] 12:10 AM
   Piperacillin/Tazobactam (Zosyn) - [**2201-3-19**] 02:10 AM
   Infusions:
   Phenylephrine - 0.5 mcg/Kg/min
   Amiodarone - 0.5 mg/min
   Furosemide (Lasix) - 12 mg/hour
   Other ICU medications:
   Amiodarone - [**2201-3-18**] 11:39 AM
   Furosemide (Lasix) - [**2201-3-18**] 04:00 PM
   Pantoprazole (Protonix) - [**2201-3-19**] 12:14 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2201-3-19**] 07:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**02**] AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.4
C (97.5
   HR: 99 (97 - 138) bpm
   BP: 96/60(70) {94/53(66) - 126/67(84)} mmHg
   RR: 19 (13 - 28) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 78 kg (admission): 80 kg
   Height: 69 Inch
    CVP: 15 (10 - 18)mmHg
   CO/CI (Fick): (8.6 L/min) / (4.4 L/min/m2)
   Mixed Venous O2% Sat: 66 - 75
   Total In:
                                                                  2,804 mL
                                                                    655 mL
   PO:
   TF:
                                                                     30 mL
                                                                      6 mL
   IVF:
                                                                  2,064 mL
                                                                    649 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                    996 mL
                                                                    430 mL
   Urine:
                                                                    966 mL
                                                                    430 mL
   NG:
                                                                     30 mL
   Stool:
   Drains:
   Balance:
                                                                  1,808 mL
                                                                    225 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 27
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 21 cmH2O
   Plateau: 20 cmH2O
   SpO2: 95%
   ABG: 7.40/35/81/17/-1
   Ve: 13.3 L/min
   PaO2 / FiO2: 203
   Physical Examination
   Labs / Radiology
   32 K/uL
   8.5 g/dL
   133 mg/dL
   3.9 mg/dL
   17 mEq/L
   4.0 mEq/L
   99 mg/dL
   93 mEq/L
   134 mEq/L
   22.1 %
   3.1 K/uL
        [image002.jpg]
                             [**2201-3-17**]  07:45 PM
                             [**2201-3-18**]  02:16 AM
                             [**2201-3-18**]  02:32 AM
                             [**2201-3-18**]  05:10 AM
                             [**2201-3-18**]  01:59 PM
                             [**2201-3-18**]  03:57 PM
                             [**2201-3-18**]  10:14 PM
                             [**2201-3-18**]  10:37 PM
                             [**2201-3-19**]  02:22 AM
                             [**2201-3-19**]  02:38 AM
   WBC
   4.5
   4.4
   4.1
   3.1
   Hct
   25.1
   24.1
   24.6
   23.3
   22.1
   Plt
   44
   36
   75
   49
   40
   32
   Cr
   3.9
   4.0
   3.9
   TCO2
   22
   21
   22
   22
   Glucose
   73
   109
   133
   Other labs: PT / PTT / INR:14.0/34.4/1.2,
    CK / CKMB / Troponin-T:42//0.14,
    ALT / AST:400 (567)/167 (362), Alk Phos / T Bili:284/1.5, Albumin:1.7
   g/dL, LDH:1195 IU/L (1189),    Lactic Acid:1.6 mmol/L,
   Differential-Neuts:80.0 %, Band:7.0 %, Lymph:1.0 %, Mono:9.0 %, Eos:0.0
   %, D-dimer:1482 ng/mL, Fibrinogen:909 mg/dL, Ca++:7.9 mg/dL, Mg++:1.9
   mg/dL, PO4:7.3 mg/dL
   Micro: sputum CX:  sparse growth commensal respiratory flora, moderate
   growth yeast, rare aspergillus
Blood CX: NGTD
   Assessment and Plan
   61 y/o male with Wegener's granulomatosis, respiratory failure, likely
   PNA.
   .
   # Respiratory failure:  The patient developed tachypnea and low oxygen
   saturation while in the emergency room. He required intubation
   following paralysis.  Despite this treatment he continues to be hypoxic
   with a respiatory acidosis on ABG.  This picture is likely an acute
   respiratory failure due to V/Q mismatch in the context of acute
   pneumonia in a substrate of a patient with emphysema and chronic lung
   damage from repeated infections and Wegener's granulomatosis.
   Differential includes PE (CTA not performed) in context of autoimmune
   inflammation, and any of a number of lung infections as patient has
   long history of multiple infections.
   - Continue to adjust ventilatory settings to aim for O2 saturation
   88-92% given COPD history
   - Weaning FiO2 as tolerated (currently fi02 50%)
   - Trend ABGs
   - Continue albuterol/ipratroprium
   - send sputum for cx
   - COPD/Wegener
s flare treatment with Solumedrol  (125 mg IV Q8H
   mg IV on [**3-17**]) decrease to 50IV TID today
   - Chest PT when tolerated
   - Daily CXR
   - Antibiotics as below
   - Will initiate CVVH today; discontinue lasix
   .
   # Hypotension/Shock: Likely secondary to infection.  Does not seem to
   cardiogenic in etiology.  HCT appears to be stable post transfusion.
   Also likely superimposed adrenal insufficiency (especially in context
   of acute illness). Was on triple pressors; now down to one.  Weaning
   from pressors, vasopressin taken off [**2201-3-18**].
   - phenylephrine with goal MAP > 60
   - Trend CVP to evaluate better intravascular volume (mid-teens; most
   recent 16)
   - avoid fluid resuscitation as patient is markedly overloaded (though
   likely intravascularly deplete) with aim for consistent UOP
   - decrease solumedrol to 50 TID -> decrease by 10 every other day (per
   rheum recs)
   .
   # Pneumonia: The patient has left lower lobe infection consistent with
   likely infection.  Given his multiple past infectious the patient
   should be double-covered for pseudomonal infection, stenotrophomonas,
   gram positive infections.  Rare aspergillus growth in sputum;
   significance unclear (colonization v. infection) in this
   immunosuppressed pt with cavitating nodules seen on initial CT chest.
   - Continue empiric Zosyn/Flagyl
   - Urine legionella negative
   - Off treatment dose bactrim IV given h/o sternotrophomonas
   - Repeat noncontrast CT torso to f/u nodules
   - Send galactomannan and beta glucan
   - F/U ID recs
   # Oliguric Renal failure:  Acute on chronic, with ranges in OMR from
   1.8 to 4.  He is currently at the higher end of this.  Likely secondary
   to pre-renal state in context of hypotension.  Lack of red cells in UA,
   minimal whites suggests that this is not active nephritis from
   Wegener's. Creatinine remains elevated > 3 today. K and phos trending
   up again with dwindling UOP.  Started on lasix gtt and diuril with some
   improvement in urine output although remains significantly volume
   overloaded.   Hyperkalemia improved with kayexalate and bowel movement
   overnight. Per discussion with family and Renal, will pursue CVVH
   - F/U renal recs
 plan for line placement and CVVH initiation today
   (may need blood products)
   - Trend creatinine, electrolytes
   - Follow electrolytes TID
   # Anemia/dropping hematocrit
 Patient had unexpected hematocrit drop
   from 28
 23.  Patient with bleeding from mouth (biting ET tube),
   coffee ground material from OG.  No other evidence of bleeding.  . Got
   2u PRBC, 2u FFP, 1 unit platelets and bumped appropriately.
   - Noncontrast CT torso to r/o RP bleed/other evidence of bleeding if
   evidence of re-bleeding.
   - monitor HCT Q 8 hours
   - Active T&S
   - Transfuse for HCT < 24, will transfuse 2 units now and cross-match
   additional 2 units
   # Coagulopathy: Started on heparin for LE DVT (no bolus) but
   supratherapeutic after starting.  Trending down this morning.
   - f/u on inhibitor
   - consider heme onc consult if abnormal or if persistent coagulopathy
   # DVT in RLE: Raises the possibility of PE as trigger for acute-onset
   SOB.
   - Off heparin gtt with goal PTT 60-80; pt supratherapeutic ptt
   - F/U final TTE read
   - Monitor patient for signs of bleeding (oozing from skin tear on R arm
   where EKG lead was removed)
   - no plans for CTA, given borderline renal function, already on heparin
   gtt
   # Mental status: Abnormal neurological exam with unresponsive pupils,
   abnormal respiratory pattern.  DDX cerebral edema in setting of
   metabolic abnormalities, possible intracranial bleed given low
   platelets and heparin gtt.
   - CT head without any acute findings
   - continue sedation with propofol
   #Thrombocytopenia:  Unclear etiology.  Somewhat early for HIT given
   started on heparin <24 hours ago.  Has history of thrombocytopenia on
   vancomycin. Received 1 unit overnight with good response.
   - trend TID
   - transfuse <50 (received 1 unit this AM)
   .
   # Possible Colitis: Unclear etiology.  Will treat empirically with
   flagyl at this time.
   - Send C. diff once stool sample available
   - CT torso today once patient more stable.
   #Atrial fibrillation:  Overnight episodes of AFIB with RVR, this
   morning rate controlled.
   - Started on amiodarone gtt on [**3-18**], begin maintenance therapy (400mg
   [**Hospital1 **] x 1 week, then reassess) as not currently a candidate for rate
   control
   .
   # Abnormal differential: Could be in context of sepsis, but marked
   abnormalitity raises possibility of underlying lymphoproliferative
   disease, especially given autoimmune diseases and use of azathioprine.
   Normal HCT and platelets decreases the possibility of malignancy.
   - Manual smear
   .
   # Wegener's Disease:  On azathioprine at home; being held currently due
   to low WBC.  Have given IV solumedrol for COPD which should help--does
   have active lesions on imaging today.
   - F/U rheum recs, if any new
   .
   # L2 fracture, avascular necrosis of hip: Both in context of steroid
   use, later may be also in context of hypoxia given global ischemia.
   Patient will have evaluation by orthopedics and spine once more stable.
   # Constipation: Likely ileus, had 1^st BM since admission on [**3-18**] with
   more aggressive bowel regimen
   - continue lactulose PO
   .
   # Androgen deficiency: Continue androgel.
   ICU Care
   Nutrition: No IVF given resuscitation to date and volume with other
   transfusions, replete electrolytes, tube feeds per Nutrition recs
   Glycemic Control:
   Lines:
   16 Gauge - [**2201-3-14**] 11:00 PM
   Arterial Line - [**2201-3-15**] 07:00 AM
   Multi Lumen - [**2201-3-15**] 07:00 AM
   Prophylaxis:
   DVT: Pneumoboots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments: Niece [**Name (NI) 5315**] [**Telephone/Fax (1) 5317**]/Son
   [**Name (NI) 66**] status: DNR, intubation/pressors OK
   Disposition: ICU pending clinical improvement

2201-03-19 11:41:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   61 yo man with WG, respiratory failure, sepsis, PNA.  Pressors weaned
   overnight.  urine output picked up somewhat
   24 Hour Events:
   Allergies:
   Vancomycin
   Thrombocytopeni
   Last dose of Antibiotics:
   Vancomycin - [**2201-3-16**] 02:00 PM
   Metronidazole - [**2201-3-19**] 12:10 AM
   Piperacillin/Tazobactam (Zosyn) - [**2201-3-19**] 02:10 AM
   Infusions:
   Phenylephrine - 0.5 mcg/Kg/min
   Amiodarone - 0.5 mg/min
   Other ICU medications:
   Amiodarone - [**2201-3-18**] 11:39 AM
   Furosemide (Lasix) - [**2201-3-18**] 04:00 PM
   Pantoprazole (Protonix) - [**2201-3-19**] 12:14 AM
   Other medications:
   zoloft
   thiamine
   medrol
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2201-3-19**] 11:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**02**] AM
   Tmax: 36.7
C (98.1
   Tcurrent: 35.9
C (96.7
   HR: 103 (97 - 117) bpm
   BP: 122/71(85) {94/53(66) - 126/71(85)} mmHg
   RR: 23 (13 - 25) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 78 kg (admission): 80 kg
   Height: 69 Inch
   CVP: 15 (10 - 18)mmHg
   CO/CI (Fick): (8.6 L/min) / (4.4 L/min/m2)
   Mixed Venous O2% Sat: 66 - 75
   Total In:
                                                                  2,804 mL
                                                                    840 mL
   PO:
   TF:
                                                                     30 mL
                                                                      6 mL
   IVF:
                                                                  2,064 mL
                                                                    835 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                    996 mL
                                                                    695 mL
   Urine:
                                                                    966 mL
                                                                    695 mL
   NG:
                                                                     30 mL
   Stool:
   Drains:
   Balance:
                                                                  1,808 mL
                                                                    145 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 27
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 17 cmH2O
   Plateau: 20 cmH2O
   SpO2: 95%
   ABG: 7.39/34/98.[**Numeric Identifier 248**]/17/-3
   Ve: 16 L/min
   PaO2 / FiO2: 245
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 3+, Left lower extremity
   edema: 3+
   Musculoskeletal: No(t) Unable to stand
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.5 g/dL
   61 K/uL
   133 mg/dL
   3.9 mg/dL
   17 mEq/L
   4.0 mEq/L
   99 mg/dL
   93 mEq/L
   134 mEq/L
   21.6 %
   3.1 K/uL
        [image002.jpg]
                             [**2201-3-18**]  05:10 AM
                             [**2201-3-18**]  01:59 PM
                             [**2201-3-18**]  03:57 PM
                             [**2201-3-18**]  10:14 PM
                             [**2201-3-18**]  10:37 PM
                             [**2201-3-19**]  02:22 AM
                             [**2201-3-19**]  02:38 AM
                             [**2201-3-19**]  07:34 AM
                             [**2201-3-19**]  07:57 AM
                             [**2201-3-19**]  09:46 AM
   WBC
   4.1
   3.1
   Hct
   24.6
   23.3
   22.1
   21.6
   Plt
   75
   49
   40
   32
   61
   Cr
   4.0
   3.9
   TCO2
   21
   22
   22
   21
   Glucose
   109
   133
   Other labs: PT / PTT / INR:14.0/34.4/1.2, CK / CKMB /
   Troponin-T:42//0.14, ALT / AST:400/167, Alk Phos / T Bili:284/1.5,
   Differential-Neuts:80.0 %, Band:7.0 %, Lymph:1.0 %, Mono:9.0 %, Eos:0.0
   %, D-dimer:1482 ng/mL, Fibrinogen:909 mg/dL, Lactic Acid:1.5 mmol/L,
   Albumin:1.7 g/dL, LDH:1195 IU/L, Ca++:7.9 mg/dL, Mg++:1.9 mg/dL,
   PO4:7.3 mg/dL
   Assessment and Plan
   Respiratory failure:  improved overall.  Continue to wean PEEP.
   septic shock:  improved.  weaning down on neo.
   AFib:  improved  control on Amio.  Will change to PO amio.
   PNA:  sputum cx with aspergillus.  CT chest showed some cavitating
   nodules.
   Anemia:  Will get CT abdomon to confirm no intrabdominal bleeding
   source.
   Acute on chronic renal failure: to get hemodialysis today to remove
   fluid.
   Wegener's holding azathioprine.
   Restart TFs.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2201-3-14**] 11:00 PM
   Arterial Line - [**2201-3-15**] 07:00 AM
   Multi Lumen - [**2201-3-15**] 07:00 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 50 minutes
   Patient is critically ill